US06423704B1
Add to a suspension of sodium hydrdide (0.029 g, 1.21 mmol) in anhydrous dimethylformamide (5 mL) a suspension of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan (0.38 g, 1.2 mmol, Preparation 9) in anhydrous dimethylformamide (7 mL). Stir for 3 hours at room temperature and add a large excess of 1,1,1-trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester. Stir overnight at room temperature, quench the reaction with water, wash the organic phase with water, dry (MgSO4), filter and concentrate in vacuo to afford 4-[1-(2,2,2-trifluoro-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester. Repeat this preparation using 2.88 mmol of 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan. Combine the product from both reactions and purify by column chromatography on silica gel eluting with 30% ethyl acetate in hexane and concentrate the appropriate fractions to afford 0.48 g of 4-[1-(2,2,2-trifluoro-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester.

reactant | sodium | 1.21 mmol, 0.029 g | [Na] | Na
reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepan | 1.2 mmol, 0.38 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | 1,1,1-trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 4-[1-(2,2,2-trifluoro-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CC(F)(F)F)C=CC=C2 | C19H25F3N4O2
